US03950423
Diethyl-10,11 -dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene-5-malonate
Diethyl malonate, 90 ml., is stirred, cooled in an ice bath, and treated with 1.51 g. of 55.7% sodium hydride in mineral oil in several portions. The mixture is stirred approximately 5 minutes at room temperature and then treated with 10.03 g. (0.0334 mole) of 5-chloro-10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene. Stirring is continued for 16 hours at approximately 40°C., 1 hour at 50°C., 1 hour at 60°C. and 1 hour at 70°C. The excess diethyl malonate is distilled at 70°-75°C. and 0.1 mm. and the residue is triturated with hexane. The insoluble mixture of product and sodium chloride is collected, washed with hexane and petroleum ether, and dried at 80°C. and 0.1 mm. The mixture is triturated with benzene and the insoluble sodium chloride is removed by filtration. Evaporation of the benzene solution under reduced pressure and recrystallization of the residual white solid from absolute ethanol affords purified product, m.p. 144° -146°C.

reactant | Diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | [H-].[Na+]
reactant | 5-chloro-10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene | 0.0334 mole | ClC1C2=C(C(C(C3=C1C=CC=C3)(F)F)(F)F)C=CC=C2 | C15H9ClF4
product | Diethyl-10,11 -dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene-5-malonate | C(C)OC(C(C(=O)OCC)C1C2=C(C(C(C3=C1C=CC=C3)(F)F)(F)F)C=CC=C2)=O | C22H20F4O4
